US07115611B2
C] [2-Methoxymethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol
0.364 g (1.119 mmol) of the above prepared 2-methoxymethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester in 6 ml of abs. THF was cooled down to 0° C. and reacted with 2.8 ml of DIBAL-H-solution (1.0 M in toluene, 2.5 eq.) for 1 h. Careful quenching with icewater, filtration over a pad of Celite, twofold extraction with AcOEt, washing with NH4Cl-solution, drying over magnesium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, hexane/AcOEt=1/1) to yield finally 0.312 g of the title compound as colorless oil.

reactant | 2-methoxymethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)COC)=O | C16H14F3NO3
reactant | DIBAL-H | 1.0 M, 2.8 ml, 2.5 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [2-Methoxymethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 0.312 g | COCC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO2
